datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+](C)(C)Cc1cccc(O)c1[O-:10].c1ccc(-c2[nH]cc[n+:21]2[H:20])cc1>>C[N+](C)(C)Cc1cccc(O)c1[O:10][H:20].c1ccc(-c2[nH]cc[n:21]2)cc1 10=20;20,21=21",
"CCOC(=O)C1(c2ccccc2)CC[N+:21](CC)([H:20])CC1.O=C(O)c1ccc(O)c2c1ccc[n:10]2>>CCOC(=O)C1(c2ccccc2)CC[N:21](CC)CC1.O=C(O)c1ccc(O)c2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O:21][H:20])cc2)n1.C[C@@H](O)[C@H](CCC=O)O[C@H]1O[C@H](C)[C@@H]([N:10](C)C)[C@H](O)[C@H]1O>>COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O-:21])cc2)n1.C[C@@H](O)[C@H](CCC=O)O[C@H]1O[C@H](C)[C@@H]([N+:10](C)(C)[H:20])[C@H](O)[C@H]1O 10=20;20,21=21",
"CO[C@H]1O[C@H](C(=O)[O-:10])[C@H](O)[C@H](O)[C@H]1O.O=[N+]([O-])c1ccc2[nH]c(C(F)(F)Cl)[n+:21]([H:20])c2c1>>CO[C@H]1O[C@H](C(=O)[O:10][H:20])[C@H](O)[C@H](O)[C@H]1O.O=[N+]([O-])c1ccc2[nH]c(C(F)(F)Cl)[n:21]c2c1 10=20;20,21=21",
"CCC(C)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCC(C)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CN1CC(=O)[N:21]([H:20])C1=O.OC(CN1CCOCC1)C[N:10]1CCOCC1>>CN1CC(=O)[N-:21]C1=O.OC(CN1CCOCC1)C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"COc1ccc(-c2nc3c[n+:21]([H:20])ccc3n2C)c(OC)c1.Cc1ccc([N+](=O)[O-])cc1C(=O)[O-:10]>>COc1ccc(-c2nc3c[n:21]ccc3n2C)c(OC)c1.Cc1ccc([N+](=O)[O-])cc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CCCCCCCCc1c(-c2ccccc2)n[nH]c1[O-:10].O=S(=O)(Nc1nccc[n+:21]1[H:20])c1ccccc1>>CCCCCCCCc1c(-c2ccccc2)n[nH]c1[O:10][H:20].O=S(=O)(Nc1nccc[n:21]1)c1ccccc1 10=20;20,21=21",
"CCCc1c(-c2ccccc2)n[nH]c1[O-:10].Clc1ccc2nnn([O:21][H:20])c2c1>>CCCc1c(-c2ccccc2)n[nH]c1[O:10][H:20].Clc1ccc2nnn([O-:21])c2c1 10=20;20,21=21",
"Cc1ccc(Br)c(C(=O)[O:21][H:20])c1.Nc1ccc([N-:10]S(=O)(=O)c2ccccc2)cc1>>Cc1ccc(Br)c(C(=O)[O-:21])c1.Nc1ccc([N:10](S(=O)(=O)c2ccccc2)[H:20])cc1 10=20;20,21=21",
"C=CC[NH+](CC=C)CCC[N:10](CC=C)CC=C.CC(CO)C[N+:21](C)(C)[H:20]>>C=CC[NH+](CC=C)CCC[N+:10](CC=C)(CC=C)[H:20].CC(CO)C[N:21](C)C 10=20;20,21=21",
"CC(C)[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"COC(=O)C/C(=N/[O:21][H:20])C(C)=NO.Nc1ccc(S(=O)(=O)[N-:10]c2nncs2)cc1>>COC(=O)C/C(=N/[O-:21])C(C)=NO.Nc1ccc(S(=O)(=O)[N:10](c2nncs2)[H:20])cc1 10=20;20,21=21",
"Cc1cccc(N)[n:10]1.N#CC(C#N)=C(C#N)[N:21](C1CCCCC1)[H:20]>>Cc1cccc(N)[n+:10]1[H:20].N#CC(C#N)=C(C#N)[N-:21]C1CCCCC1 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.C[NH:10]CCCNC(=O)/C=N/[O-]>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.C[NH+:10](CCCNC(=O)/C=N/[O-])[H:20] 10=20;20,21=21",
"C#CCCC[NH2+:21][H:20].CO[C@H]1CC=C2CC[N:10]3CC[C@H](CO)C(=CCO)[C@]23C1>>C#CCCC[NH2:21].CO[C@H]1CC=C2CC[N+:10]3([H:20])CC[C@H](CO)C(=CCO)[C@]23C1 10=20;20,21=21",
"CC(C[NH2+:21][H:20])C(=O)[O-].Cn1cnc2c1C(=O)c1nc[n:10]c([O-])c1C2=O>>CC(C[NH2:21])C(=O)[O-].Cn1cnc2c1C(=O)c1nc[n+:10]([H:20])c([O-])c1C2=O 10=20;20,21=21",
"CC(=O)c1ccc([O-:10])c([N+](=O)[O-])c1.COc1ccc(C(c2ccccc2)[OH+:21][H:20])cc1>>CC(=O)c1ccc([O:10][H:20])c([N+](=O)[O-])c1.COc1ccc(C(c2ccccc2)[OH:21])cc1 10=20;20,21=21",
"CC1(C)NC(=S)[N:21]([H:20])C1=O.CCCC[NH+](CCCC)CC[S-:10]>>CC1(C)NC(=S)[N-:21]C1=O.CCCC[NH+](CCCC)CC[S:10][H:20] 10=20;20,21=21",
"CN1CC[N+:21](C)([H:20])c2cccc3cccc1c23.c1ccc(-c2ccccc2[O-:10])cc1>>CN1CC[N:21](C)c2cccc3cccc1c23.c1ccc(-c2ccccc2[O:10][H:20])cc1 10=20;20,21=21",
"CCC[NH:10]C(C)C.O=C(c1ccc(/N=C/c2ccccc2)cc1)[O:21][H:20]>>CCC[NH+:10](C(C)C)[H:20].O=C(c1ccc(/N=C/c2ccccc2)cc1)[O-:21] 10=20;20,21=21",
"C[NH+](C)CCc1ccc([O-:10])cc1.O=C(C12CC3(F)CC(F)(CC(F)(C3)C1)C2)[O:21][H:20]>>C[NH+](C)CCc1ccc([O:10][H:20])cc1.O=C(C12CC3(F)CC(F)(CC(F)(C3)C1)C2)[O-:21] 10=20;20,21=21",
"CCCC(=O)O[O-:10].Cc1cc(Nc2ccc([O:21][H:20])cc2)cc(C)c1O>>CCCC(=O)O[O:10][H:20].Cc1cc(Nc2ccc([O-:21])cc2)cc(C)c1O 10=20;20,21=21",
"COc1ccc(N)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH-:10]>>COc1ccc(N)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH:10][H:20] 10=20;20,21=21",
"C=CC[N+:21]1([H:20])CCCCC1.C[Si](C)(C)OC1C[N:10](Cc2ccccc2)C1>>C=CC[N:21]1CCCCC1.C[Si](C)(C)OC1C[N+:10](Cc2ccccc2)([H:20])C1 10=20;20,21=21",
"COc1cc([N+](=O)[O-])ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1cc([N+](=O)[O-])ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1[nH]c(C(=O)[O-])c(C(=O)[O-:10])[nH+]1.Nc1cc[n+:21]([H:20])cc1C(=O)[O-]>>Cc1[nH]c(C(=O)[O-])c(C(=O)[O:10][H:20])[nH+]1.Nc1cc[n:21]cc1C(=O)[O-] 10=20;20,21=21",
"N#CC(CC[N:10]1CCCCC1)(c1ccccc1)c1ccccc1.O=C(c1ccc(CCl)cc1)[O:21][H:20]>>N#CC(CC[N+:10]1([H:20])CCCCC1)(c1ccccc1)c1ccccc1.O=C(c1ccc(CCl)cc1)[O-:21] 10=20;20,21=21",
"C[N:10](C)C.N#Cc1cccc([N:21](S(=O)(=O)c2ccccc2)[H:20])c1>>C[N+:10](C)(C)[H:20].N#Cc1cccc([N-:21]S(=O)(=O)c2ccccc2)c1 10=20;20,21=21",
"CCC(C)(C)C(=O)[O:21][H:20].O=C(C(I)=Cc1ccccc1)[O-:10]>>CCC(C)(C)C(=O)[O-:21].O=C(C(I)=Cc1ccccc1)[O:10][H:20] 10=20;20,21=21",
